* C:\Working\power_electronics\RT21 48V\Current Controller Gi.sxsch
*#SIMETRIX
V1 V1_P R9_N AC 1
X2 X2_inp X2_inn X2_vsp 0 C5_P PARAM_OPAMP params: A0=100k
+ CMRR=100k
+ GBW=10Meg
+ IB=200p
+ IBOS=50p
+ IQ=1m
+ PSRR=100k
+ RIN=1Meg
+ ROUT=100
+ SR_NEG=1Meg
+ SR_POS=1Meg
+ VDIFF_NEG=0
+ VDIFF_POS=0
+ VOFF_TOL=0
+ VOS=0 pinnames: inp inn vsp vsn out
V2 R9_N 0 1.31449
V3 X2_vsp 0 5
R4 X2_inn V1_P 100k
R5 C6_N 0 47k
R6 C5_P R6_N 47k
R7 R6_N X2_inn 1Meg
R8 X2_inp C6_N 1Meg
R9 X2_inp R9_N 100k
R12 V1_P C8_P 10k
C4 R6_N X2_inn 2.2n   
C5 C5_P R6_N 2.2n   
C6 X2_inp C6_N 2.2n   
C7 C6_N 0 2.2n   
C8 C8_P X2_inn 1n   
.GRAPH C5_P curveLabel= X2-out nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe3  
.KEEP C5_P V1_P
.GRAPH "db(:C5_P/:V1_P)" Curvelabel="Gi_gain" nowarn=true yunit="dB" complete=True analysis="ac" axisname=bodemag ylog=lin  persistence=0 disabled=false 
.GRAPH "ph(:C5_P/:V1_P)" Curvelabel="Gi_phase" nowarn=true yunit="degrees" complete=True analysis="ac"  axisname=bodephase ylog=lin   persistence=0 disabled=false
.ac dec 25 1 100k

