* C:\wip\power_electronics\RT21 48V\opamp compensator.sxsch
*#SIMETRIX
V1 V1_P X2_inp AC 1
X2 X2_inp X2_inn X2_vsp 0 R1_N PARAM_OPAMP params: A0=100k
+ CMRR=100k
+ GBW=10Meg
+ IB=200p
+ IBOS=50p
+ IQ=1m
+ PSRR=100k
+ RIN=1Meg
+ ROUT=100
+ SR_NEG=1Meg
+ SR_POS=1Meg
+ VDIFF_NEG=0
+ VDIFF_POS=0
+ VOFF_TOL=0
+ VOS=100n pinnames: inp inn vsp vsn out
V2 X2_inp 0 1.31449
R1 X2_inn R1_N 1Meg
V3 X2_vsp 0 5
R4 X2_inn V1_P 10k
R7 C5_N X2_inn 100k
C5 R1_N C5_N 1n   
.GRAPH R1_N curveLabel= X2-out nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe3  
.KEEP R1_N V1_P
.GRAPH "db(:R1_N/:V1_P)" Curvelabel="Gi_gain" nowarn=true yunit="dB" complete=True analysis="ac" axisname=bodemag ylog=lin  persistence=0 disabled=false 
.GRAPH "ph(:R1_N/:V1_P)" Curvelabel="Gi_phase" nowarn=true yunit="degrees" complete=True analysis="ac"  axisname=bodephase ylog=lin   persistence=0 disabled=false
.ac dec 25 1 100k

